Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
allopurinol / Statins-Hmg-Coa Reductase Inhibitors
 
Attending: ___.
 
Chief Complaint:
BRBPR
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ female with history of CAD, CKD (s/p multiple 
stents), HFrEF(44%), IDDM, AF on coumadin, recently hospitalized 
for ___ presenting from home for evaluation of painless 
but large quantity bright red blood per rectum. She was taking 
senna/colace for constipation when she started having looser 
stools. Overnight, pt notes waking up in a large pool of red 
blood. She has never had a colonoscopy. Her father died in his 
___ of colon cancer. 

Patient denies epigastric pain, chest pain, shortness of breath, 
weakness, or other preceding symptoms. Woke in a large pile of 
bright red blood per rectum. Has had at least several episodes 
since initial evaluation.

Patient recently had a 3 week admission at ___ for 
AMS (thought to be from oxycodone, marijuana) and NSTEMI now s/p 
suspected DES to LCx (___) on aspirin, prasugrel, and 
Coumadin. Her course was complicated by ___ and bronchitis. 

In the ED, initial vitals:  97.3 88 114/55 16 100% RA 
- Exam notable for:
Awake, alert
Clear to auscultation bilaterally
Nontender abdomen
Visible red blood, no melena, grossly guaiac positive
- Labs notable for: Anemia to 7.2 (baseline ~9),  Cr to 2.2 
(recent baseline ~2.0), recent ferritin to 170s, Tsat 8%, INR 
3.5
- Pt given: IV 10mg vitamin K, Kcentra, 1L NS, and 1u blood, IV 
pantoprazole 40mg
- Vitals prior to transfer: 97.9 86 ___ 99% RA   

On arrival to the floor, pt reports pain in her left foot from 
previously dropping a telemetry box on it. She is unsure of her 
medications since leaving rehab. She recounts and confirms the 
above story. I have also corroborated her previous hospital 
course with cardiologist on-call at ___. 
 
Past Medical History:
HTN, labile  
HLD  
HYPOTHYROIDISM  
RETINAL ARTERY OCCLUSION - BRANCH  
MIGRAINE EQUIVALENT  
CAD/MI (MIs in ___ and ___
CHF (EF 60-65% in ___  
OBESITY,  
insulin-dependent DMII  
Gout  
Renal artery stenosis  
CKDIII  
Anemia  
afib on anticoagulation  
Depression 
 
Social History:
___
Family History:
Father died of colon cancer in ___.
 
Physical Exam:
ADMISSION
Vitals:  97.2 PO 124 / 91 91 20 100 2L NC 
General: Alert, oriented, no acute distress  
HEENT: Pale conjunctivae, MMM, oropharynx clear  
Neck: supple, JVP 12cm, no LAD  
Lungs: CTAB anteriorly, crackles posterior bases
CV: ___, Nl S1, S2, II/VI systolic murmur 
Abdomen: soft, NT/ND bowel sounds present, no rebound tenderness 
or guarding, no organomegaly  
GU: no foley  
Ext: 2+ pitting edema ___ 
Neuro: CN2-12 intact, no focal deficits 

DISCHARGE
Vitals:  97.5 PO 150 / 97 88 18 100 Ra  
General: Alert, oriented, no acute distress  
HEENT: Pale conjunctivae, MMM, oropharynx clear  
Neck: supple, JVP 12cm, no LAD  
Lungs: CTAB anteriorly, crackles posterior bases
CV: ___, Nl S1, S2, II/VI systolic murmur 
Abdomen: soft, NT/ND bowel sounds present, no rebound tenderness 
or guarding, no organomegaly  
GU: no foley  
Ext: 2+ pitting edema ___, PICC in place, left foot with soft 
tissue edema and ecchymosis. 
Neuro: face symmetric, MAE, no dysarthria 
 
Pertinent Results:
ADMISSION
___ 04:50AM BLOOD WBC-9.0 RBC-2.54* Hgb-7.2* Hct-24.1* 
MCV-95 MCH-28.3 MCHC-29.9* RDW-18.1* RDWSD-61.3* Plt ___
___ 04:50AM BLOOD ___ PTT-41.1* ___
___ 04:50AM BLOOD Ret Aut-3.5* Abs Ret-0.09
___ 04:50AM BLOOD Glucose-170* UreaN-68* Creat-2.2* Na-137 
K-4.5 Cl-96 HCO3-30 AnGap-16
___ 04:50AM BLOOD Calcium-8.4 Phos-3.4 Mg-2.1
___ 04:50AM BLOOD Digoxin-0.2*
___ 04:59AM BLOOD Lactate-1.8

DISCHARGE 
___ 04:59AM BLOOD WBC-9.8 RBC-2.76* Hgb-8.3* Hct-26.9* 
MCV-98 MCH-30.1 MCHC-30.9* RDW-19.9* RDWSD-58.7* Plt ___
___ 04:59AM BLOOD Glucose-157* UreaN-76* Creat-2.4* Na-139 
K-3.9 Cl-98 HCO3-30 AnGap-15
___ 04:59AM BLOOD Calcium-8.7 Phos-3.4 Mg-2.2

L Foot XR 
No acute fracture. 

 
Brief Hospital Course:
___ y/o F with  DES to LCx 1 month ago, HFrEF, AFib on coumadin, 
IDDM, CKD, and chronic anemia who presents with hematochezia and 
anemia.

# Acute Blood Loss on Chronic Anemia: Patient presented with 
hematochezia which worsened chronic anemia. Patient was 
supratherapeutic on admission. Suspected source as 
diverticulosis/LGIB but patient has never had colonoscopy. 
Initial plan for endoscopy deferred per patient's wishes. Hct 
stable s/p 2u pRBC. Supratherapeutic INR was reversed with 
vitamin K and Kcentra. Baseline anemia likely from to be 
AICD/CKD with component of iron deficiency. Patient's bleed 
stabilized off warfarin. Risk/benefit discussion was offered 
regarding restarting Coumadin, holding Coumadin, or a trial of 
heparin to watch for re-bleed. Patient prefers to hold Coumadin 
until seeing PCP. She expressed understanding of the risk of 
stroke. She received a b12 shot on ___ and was started on daily 
folic acid as well. 

# CAD s/p stenting: Patient had recent DES to LCx at ___. 
___ on ___. She was continued on ASA81 and 
prasugrel. Metoprolol XL 200mg was continued. 
Isordil/hydralazine was continued by discharge. She continues on 
enzetimibe given statin intolerance 

# Acute on Chronic Systolic Heart Failure HFrEF (44%), 
biventricular
# Mod posteriorly directed MR
# Pulm HTN
She was continued on torsemide 60mg BID, as well as 
isordil/hydral and metoprolol XL. Spironolactone was held in 
setting of mild ___ on CKD. Her discharge weight was:
She has a follow up appointment with At___ Cardiology on 
___ 4:30 ___ with Dr ___.

# Left foot pain: A telemetry box at a previous hospitalization 
was dropped on her left foot. Xrays were previously negative. 
The foot caused her significant pain with notable. A repeat XR 
was negative for fracture as well. She had significant soft 
tissue swelling, ecchymosis. Supportive care with elevation and 
ice was offered. Podiatry recommended a surgical shoe and can 
follow up as an outpatient. Patient's oxycodone frequency was 
increased to q4h. 

# Depression
- continued wellbutrin 150mg

# ___ on CKD: Patient's base line CR 2.0-2.2. Discharged at 2.4, 
which has been stable.

# A-Fib: Warfarin was reversed with K-centra and vitamin K as 
above. Per patient preference, she wanted to discuss restarting 
anticoagulation with her PCP. She was continued on digoxin and 
metoprolol

# Diabetes  
- Continued home Glargine + ISS  

# Gout  
- Continued home Febuxostat  
- Continued home Methylprednisolone 4mg  

# Hypothyroidism  
- Continued home Levothyroxine  

#CODE: presumed full  
#COMMUNICATION:  daughter, ___ ___

TRANSITIONAL ISSUES:
Discharge weight: 195.3 lbs
Discharge Cr: 2.4
[ ] continue to evaluate weights daily and metabolic panels 
weekly for whether patient's diuretic regimen can be changed. 
Discharged on 60 mg Torsemide PO BID
[ ] Please monitor CBCs weekly for anemia
[ ] Note patient is a difficult lab draw. She had a PICC line in 
place for her hospitalization. 
[ ] Discuss re-starting Coumadin for Afib.  In setting of recent 
bleed, would suggest avoiding triple therapy. Per WOEST trial, 
could consider Clopidogrel/Coumadin or by extension, 
prasugrel/Coumadin
[ ] Patient adamantly refuses colonoscopy. Consider alternative 
method of colon cancer screening given family history. 
[ ] Encourage supportive measures to reduce foot swelling
[ ] Titrate oxycodone back to q6hrs or even further spaced out 
as foot swelling resolves
[ ] Consider restarting spironolactone if creatinine stable
[ ] Attempt to stop omeprazole after 1 month

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Albuterol Inhaler 2 PUFF IH Q4H:PRN sob 
2. Aspirin 81 mg PO DAILY 
3. BuPROPion (Sustained Release) 150 mg PO QAM 
4. Digoxin 0.125 mg PO 3X/WEEK (___) 
5. Ezetimibe 10 mg PO DAILY 
6. Febuxostat 40 mg PO DAILY 
7. Ferrous Sulfate 325 mg PO BID 
8. Fluticasone Propionate 110mcg 2 PUFF IH BID 
9. Levothyroxine Sodium 112 mcg PO DAILY 
10. Methylprednisolone 4 mg PO DAILY 
11. OxyCODONE (Immediate Release) 10 mg PO Q6H:PRN BREAKTHROUGH 
PAIN 
12. Warfarin 3.75 mg PO 5X/WEEK (___) 
13. Vitamin D ___ UNIT PO DAILY 
14. Warfarin 5 mg PO 2X/WEEK (___) 
15. Torsemide 60 mg PO BID 
16. Metolazone 2.5 mg PO DAILY 
17. Simethicone 40-80 mg PO QID:PRN bloating 
18. Prasugrel 10 mg PO DAILY 
19. nystatin 100,000 unit/gram topical ___ daily 
20. Miconazole Powder 2% 1 Appl TP BID 
21. Metoprolol Succinate XL 200 mg PO DAILY 
22. Spironolactone 12.5 mg PO DAILY 
23. Isosorbide Dinitrate 20 mg PO TID 
24. HydrALAZINE 20 mg PO Q8H 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H  
2.  Bisacodyl ___AILY:PRN constipation  
3.  Docusate Sodium 100 mg PO BID constipation  
4.  FoLIC Acid 1 mg PO DAILY  
5.  Omeprazole 20 mg PO DAILY  
6.  Polyethylene Glycol 17 g PO DAILY constipation  
7.  Senna 8.6 mg PO BID:PRN constipation  
8.  Metolazone 2.5 mg PO PRN as directed by cardiologist  
9.  OxyCODONE (Immediate Release) 10 mg PO Q4H:PRN Pain - Severe 

RX *oxycodone 10 mg 1 tablet(s) by mouth q4-6h Disp #*18 Tablet 
Refills:*0 
10.  Albuterol Inhaler 2 PUFF IH Q4H:PRN sob  
11.  Aspirin 81 mg PO DAILY  
12.  BuPROPion (Sustained Release) 150 mg PO QAM  
13.  Digoxin 0.125 mg PO 3X/WEEK (___)  
14.  Ezetimibe 10 mg PO DAILY  
15.  Febuxostat 40 mg PO DAILY  
16.  Ferrous Sulfate 325 mg PO BID  
17.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
18.  HydrALAZINE 20 mg PO Q8H  
19.  Glargine 30 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
20.  Isosorbide Dinitrate 20 mg PO TID  
21.  Levothyroxine Sodium 112 mcg PO DAILY  
22.  Methylprednisolone 4 mg PO DAILY  
23.  Metoprolol Succinate XL 200 mg PO DAILY  
24.  Miconazole Powder 2% 1 Appl TP BID  
25.  nystatin 100,000 unit/gram topical ___ daily  
26.  Prasugrel 10 mg PO DAILY  
27.  Simethicone 40-80 mg PO QID:PRN bloating  
28.  Torsemide 60 mg PO BID  
29.  Vitamin D ___ UNIT PO DAILY  
30. HELD- Spironolactone 12.5 mg PO DAILY  This medication was 
held. Do not restart Spironolactone until your doctor tells you 
to restart
31. HELD- Warfarin 3.75 mg PO 5X/WEEK (___)  This 
medication was held. Do not restart Warfarin until your doctor 
tells you to restart
32. HELD- Warfarin 5 mg PO 2X/WEEK (___)  This medication was 
held. Do not restart Warfarin until your doctor tells you to 
restart

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Hematochezia
Acute Blood Loss Anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - occasionally requires assistance 
or aid (walker or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the ___ for bleeding from your GI tract. 

What was done
==============
- Your blood thinning with Warfarin was reversed. You were not 
restarted on this medication. 
- Your bleeding stopped and your blood counts were stable.
- You received a B12 shot
- You had a Xray of your left foot that did not show a fracture

What to do next
================
- Please take all medications as prescribed. A list of your 
updated medications is attached. 
- You should discuss restarting Warfarin with your PCP. When 
your blood is not thinned, you are at risk of stroke. 
- Follow up with your PCP after discharge from rehab
- Tell your doctors ___ have further bleeding or worsening 
symptoms
- Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
- Try to keep your foot elevated to relieve swelling

We wish you the best of health moving forward

 
Followup Instructions:
___